Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Morphine / Pravachol / Sulfa (Sulfonamide Antibiotics) / Zestril
 
Attending: ___.
 
Chief Complaint:
palpitations
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ F with CAD s/p 3-vessel CABG and stents x2, HLD, DM2, recent 
diagnosis of Afib on coumadin presents with palpitations. Woke 
up from nap today around 3pm with several hours of severe 
palpitations, dizziness and chills. Similar to symptoms of 
previous admission, though this time less severe, but of longer 
duration. Slowly resolved after ___ hours, so that symptoms had 
resolved around 7pm. Yesterday she felt weak all day, but was 
unsure why.  
.  
Of note, the patient was recently admitted ___ with a 
complaint of plapitations and was found to be in decompensated 
CHF. Her atenolol was increased to 75mg daily, she was diuresed 
with IV lasix, and her PO lasix was increased to 60mg daily on 
discharge.  
.  
On review of systems, she denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, myalgias, joint pains, cough, hemoptysis, black 
stools or red stools. She denies recent fevers, chills per HPI. 
She denies exertional buttock or calf pain. She has had severe 
constipation, most recent BM 2 days ago. Urination normal, no 
symptoms like her prior UTIs. All of the other review of systems 
were negative.  
.  
Cardiac review of systems is notable for absence of chest pain, 
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea, 
ankle edema, palpitations, syncope or presyncope.  
.  
In the ED, initial vitals were 98.5 86 116/66 20 100% 10L NRB. 
EKG showed afib and subtle worsening of prior ST depressions. 
CXR clear, trop negative, INR 2.3. UA had 7 WBC, Few Bact, 1 
Epi. Vitals prior to transfer were 68 125/74 13 96% RA.  

 
Past Medical History:
Cardiac Risk Factors: DM, Dyslipidemia, Hypertension  
.  
Cardiac History:  
s/p MI ___: 3.0X13mm stent to mLAD, 2.5X13mm stent to pLCX  
CABG, in ___ anatomy as follows: LIMA to LAD, SVG to rPDA, rPL 
(sequential grafting)  
.  
Percutaneous coronary intervention ___ with 2x more recent 
caths): 
1. Coronary arteriography in this right dominant system revealed 
two 
vessel disease. The LMCA was calcified with a 30% ostial 
stenosis. The mid LAD had a 80% stenosis which was also 
calcified. The D1 and D2 arteries were both small. The D2 artery 
had a 60% ostial stenosis. The LCx was subtotally occluded in 
its mid portion. Distal to the occlusion collaterals were seen 
filling the distal LCx and OM1 from the RCA.The RCA was a large 
vessel with some mild luminal irregularities in the mid and 
distal portions. 
2. Resting hemodynamics were performed for the left side and 
revealed LV pressures of 170/14 mmHg. The elevated LVEDP in a 
patient with a normal end diastolic volume index is consistent 
with minimal to mild diastolic dysfunction. There was no 
pressure gradient measured across the aortic valve. 
3. Left ventriculography revealed anterolateral akinesis and 
apical 
hypokinesis. The calculated LVEF was 53%. No mitral 
regurgitation was 
seen. 
4. Successful stenting of the mid LCx with a 2.25x13mm Bx 
Velocity 
stent and stenting of the mid LAD with a 3.0x13mm Bx Velocity 
stent each with 0% residual stenosis. 
  
FINAL DIAGNOSIS:     
1. Two vessel coronary artery disease. 
2. Mild diastolic ventricular dysfunction. 
3. Successful stenting of the mid LCx and mid LAD. 
.  
Pacemaker/ICD: None  
.  
Other Past History:  
Peripheral Neuropathy  
h/o herniated disk (receives monthly injections)  
h/o R Knee Replacement ___ yrs ago

 
Social History:
___
Family History:
There is no family history of premature coronary artery disease 
or sudden death.
 
Physical Exam:
VS: 98.0 136/88 96 20 95% RA  
GENERAL: Alert, interactive, appropriate, no acute distress.  
HEENT: Sclera anicteric. Legally blind. PERRL, EOMI. MMM.  
NECK: Supple. JVP ~8cm  
CARDIAC: irregular, no m/r/g. No thrills, lifts. No S3 or S4.  
LUNGS: CTAB, no crackles, wheezes, rhonchi.  
ABDOMEN: Obese, soft, NTND. No HSM or tenderness.  
EXTREMITIES: w and wp, trace edema.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES:  
Right: Carotid 2+ DP 2+ ___ 2+  
Left: Carotid 2+ DP 2+ ___ 2+  
 
Pertinent Results:
___ 06:45PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 
LEUK-MOD
___ 06:45PM URINE  RBC-<1 WBC-7* BACTERIA-FEW YEAST-NONE 
EPI-1 TRANS EPI-<1
___ 05:38PM   GLUCOSE-176* K+-3.4*
___ 05:30PM   GLUCOSE-185* UREA N-23* CREAT-0.9 SODIUM-141 
POTASSIUM-3.5 CHLORIDE-100 TOTAL CO2-31 ANION GAP-14
___ 05:30PM   cTropnT-<0.01 proBNP-1256*
___ 05:30PM   WBC-8.7 RBC-4.40 HGB-14.0 HCT-40.7 MCV-92 
MCH-31.7 MCHC-34.3 RDW-13.5
___ 05:30PM   PLT COUNT-264
___ 05:30PM   ___ PTT-25.7 ___

EKG Afib at 74bpm, LVH w/ LAD, but RBBB morphology. <1mm ST 
depressions in V2-V4.  
 
Brief Hospital Course:
___ F with CAD s/p 3-vessel CABG and stents x2, HLD, DM2, recent 
diagnosis of Afib on coumadin presents with palpitations.

# Palpitations/RHYTHM: Likely secondary to afib in the setting 
of anxiety.  EKG showed Afib without RVR, trop, CK, MB negative. 
 Monitored on telemetry and found to be in atrial fibrillation 
with no episodes of rapid rate.  Symptoms were discussed with 
the patient as commonly occuring with atrial fibrillation and 
worsen with anxiety, so she was encouraged to take lorazepam as 
needed with palpitations.  She will follow up with Dr. ___.

# PUMP: Euvolemic on exam, continued lasix at 60 mg daily and 
atenolol 75 mg daily  
  
# Coronaries: no chest pain with current event, unlikely to be 
ischemic with no concerning changes on EKG and ruled out for MI 
with cardiac enzymes.  Continued simvastatin

# Bacteriuria: No symptoms suggestive of UTI so no antibiotics 
were given 

# Diabetes: held glipizide and Januvia and covered with ___, 
___ be discharged on home medications

# Chronic back pain: continued gabapentin and vicodin, along 
with bowel regimen for constipation
 
Medications on Admission:
- atenolol 75mg daily  
- furosemide 60mg daily  
- simvastatin 40 mg QHS  
- nitroglycerin 0.4 mg PRN CP  
- glipizide 10 mg BID  
- gabapentin 200mg QAM  
- gabapentin 200mg QPM  
- gabapentin 300 mg QHS  
- hydrocodone-acetaminophen ___ mg PRN pain, 2-4/day  
- Januvia 100 mg daily  
- Ativan 0.5 mg daily prn anxiety, uses rarely  
- Colace 100 mg BID.  
- senna 8.6 mg Capsule Sig: ___ Capsules QHS PRN constipation  
- Coumadin 5 mg Tablet 0.5-1 tabs per ___ clinic, most 
recently 1 tab daily  
- Zegerid - unsure of dose  
- OTC Gaviscon - alluminum/magnesium antacid  

 
Discharge Medications:
1. atenolol 25 mg Tablet Sig: Three (3) Tablet PO DAILY (Daily). 
 
2. furosemide 20 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).  
3. simvastatin 40 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
4. nitroglycerin 0.4 mg Tablet, Sublingual Sig: One (1)  
Sublingual PRN as needed for chest pain.  
5. gabapentin 100 mg Capsule Sig: Two (2) Capsule PO BID (2 
times a day).  
6. gabapentin 300 mg Capsule Sig: One (1) Capsule PO HS (at 
bedtime).  
7. hydrocodone-acetaminophen ___ mg Tablet Sig: One (1) Tablet 
PO Q6H (every 6 hours) as needed for pain.  
8. Januvia 100 mg Tablet Sig: One (1) Tablet PO once a day.  
9. Ativan 0.5 mg Tablet Sig: One (1) Tablet PO once a day as 
needed for anxiety.
Disp:*20 Tablet(s)* Refills:*0*
10. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).  
11. senna 8.6 mg Tablet Sig: One (1) Tablet PO HS (at bedtime).  

12. warfarin 5 mg Tablet Sig: One (1) Tablet PO Once Daily at 4 
___.  
13. Zegerid ___ mg-gram Capsule Sig: One (1) Capsule PO once 
a day.  
14. Gaviscon 80-14.2 mg Tablet, Chewable Sig: One (1) Tablet, 
Chewable PO PRN as needed for indigestion.  
15. glipizide 10 mg Tablet Sig: One (1) Tablet PO twice a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Atrial fibrillation
Anxiety

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were seen in the hospital for palpitations which are most 
likely due to your atrial fibrillation and can also be 
associated with anxiety.  Please take ativan only as needed for 
your palpitations as below and follow up with Dr. ___ 
further management of your atrial fibrillation.

Changes to your medications:
START taking ativan once a day only as needed for anxiety and 
palpitations
 
Followup Instructions:
___